US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]benzene-1,4-diamine
The title compound was prepared in analogy to Example 15-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1 1) and benzene-1,4-diamine. MS obsd. (ESI+) [(M+H)+] 445, 1H NMR (400 MHz, DMSO-d6) δ ppm 8.21 (s, 1 H), 7.92-7.83 (m, 2 H), 7.63-7.55 (m, 1 H), 7.53-7.46 (m, 1 H), 7.34 (d, J=8.34 Hz, 1 H), 7.27 (dd, J=8.59, 1.52 Hz, 1 H), 7.15 (d, J=7.58 Hz, 1 H), 6.91 (m, J=8.34 Hz, 2 H), 6.77 (m, J=8.59 Hz, 2 H), 5.97 (s, 1 H), 5.20-5.12 (m, 2 H), 4.76 (brs, 2 H), 3.57 (brs, 2 H), 2.37 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | benzene-1,4-diamine | C1(=CC=C(C=C1)N)N | C6H8N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]benzene-1,4-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC2=CC=C(C=C2)N)C)=O | C25H24N4O2S
